US06002008
N-{4-[(3-chloro-4-fluorophenyl)amino]-3-cyano-6-quinolinyl}-2-morpholin-4-ylmethyl-2-propenamide
Partially dissolved 1.37 g (8.00 mmol) 2-morpholin-4ylmethyl-2-propenoic acid in 50 ml ThF and chilled to 0° C. under N2. Added 1.06 ml (9.6 mmol) N-methylmorpholine and 833 μl (6.4 mmol) isobutyl chloroformate. Stirred at 0° C. for 1 hour and added a solution of 1.00 g (3.20 mmol) 6-amino-4-[(3-chloro-4-fluorophenyl)-amino]-3-quinolinecarbonitrile in 5 ml pyridine. Stirred overnight at 25° C. Poured onto a mixture of ice and saturated sodium bicarbonate, extracted with ethyl acetate, dried organic layer with brine and sodium sulfate, and stripped solvent to a small volume. Loaded onto a column of silica gel, eluted with 1% methanol/ethyl acetate, stripped solvent from desired fractions and dried under vacuum, giving 139 mg of yellow-orange solid: mass spectrum (electrospray m/e): M+H=465.8, 468.0.

reactant | 2-morpholin-4ylmethyl-2-propenoic acid | 8.00 mmol, 1.37 g | N1(CCOCC1)CC(C(=O)O)=C | C8H13NO3
reactant | N-methylmorpholine | 9.6 mmol, 1.06 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 6.4 mmol, 833 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-chloro-4-fluorophenyl)-amino]-3-quinolinecarbonitrile | 3.20 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)F)Cl | C16H10ClFN4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-{4-[(3-chloro-4-fluorophenyl)amino]-3-cyano-6-quinolinyl}-2-morpholin-4-ylmethyl-2-propenamide | 139 mg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC=C(C=C12)NC(C(=C)CN1CCOCC1)=O)C#N | C24H21ClFN5O2
